US07199135B2
N-{2,4-difluoro-5-[1-(3-{[hydroxy(diphenyl)acetyl]amino}propyl)-4-piperidinyl]phenyl}-2-methyl propanamide:
Example 155 was prepared from hydroxy(diphenyl)acetic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2,4-difluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 12: 1H NMR (400 MHz, CDCl3) δ 8.96 (s, 1 H), 8.39 (t, 1 H, J=8.4 Hz), 7.62–7.45 (m, 4 H), 7.38–7.18 (m, 7 H), 6.85–6.74 (m, 1 H), 5.43–5.14 (br, 1 H), 3.59–3.39 (m, 2 H), 3.11–2.97 (m, 2 H), 2.97–2.79 (m, 1 H), 2.59–2.45 (m, 2 H), 2.45–2.29 (m, 1 H), 2.14–1.86 (m, 4 H), 1.81–1.56 (m, 4 H), 1.01 (d, 6 H, J=7.2 Hz); ESMS m/e: 550.4 (M+H)+.

reactant | hydroxy(diphenyl)acetic acid | OC(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C14H12O3
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2,4-difluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C(=CC(=C(C1)NC(C(C)C)=O)F)F | C18H27F2N3O
product | N-{2,4-difluoro-5-[1-(3-{[hydroxy(diphenyl)acetyl]amino}propyl)-4-piperidinyl]phenyl}-2-methyl propanamide | FC1=C(C=C(C(=C1)F)C1CCN(CC1)CCCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)NC(C(C)C)=O | C32H37F2N3O3
